### PR TITLE
[Merged by Bors] - chore(FieldTheory/Relrank): restore two docstrings

### PR DESCRIPTION
**Pull request by jcommelin**
These docstrings were accidentally removed in #21627.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/FieldTheory/Relrank.lean [hunk 1]
```diff
@@ -55,11 +55,13 @@ theorem relrank_eq_of_inf_eq (h : A ⊓ C = B ⊓ C) : relrank A C = relrank B C
 theorem relfinrank_eq_of_inf_eq (h : A ⊓ C = B ⊓ C) : relfinrank A C = relfinrank B C :=
   congr(toNat $(relrank_eq_of_inf_eq h))
 
+/-- If `A ≤ B`, then `Subfield.relrank A B` is `[B : A]` -/
```
Comment (adomani) [inline Mathlib/FieldTheory/Relrank.lean:58]:
```suggestion
/-- If `A ≤ B`, then `Subfield.relrank A B` is `[B : A]`. -/
```
I know this is restoring some pre-existing doc-string, but we might as well add the punctuation!

File: Mathlib/FieldTheory/Relrank.lean [hunk 2]
```diff
@@ -55,11 +55,13 @@ theorem relrank_eq_of_inf_eq (h : A ⊓ C = B ⊓ C) : relrank A C = relrank B C
...
 theorem relrank_eq_rank_of_le (h : A ≤ B) : relrank A B = Module.rank A (extendScalars h) := by
   rw [relrank]
   have := inf_of_le_left h
   congr!
 
+/-- If `A ≤ B`, then `Subfield.relfinrank A B` is `[B : A]` -/
```
Comment (adomani) [inline Mathlib/FieldTheory/Relrank.lean:64]:
```suggestion
/-- If `A ≤ B`, then `Subfield.relfinrank A B` is `[B : A]`. -/
```

I know this is restoring some pre-existing doc-string, but we might as well add the punctuation!

**Review by adomani — COMMENTED** [review]
Thanks!

bors d+
